US06710058B2
1-(3-Fluoro-2′-methanesulfonyl-biphenyl-4-yl)-3-[3-(5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-phenylamino]-piperidin-2-one
A sample of 3-[1-(3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-2-oxo-piperidin-3-ylamino]-benzonitrile, prepared from the compound of Ex. 1, part A and 3-cyanoaniline according to the procedure of Ex. 1, Part B, was suspended in a 2:1 mixture of anhydrous MeOH and chloroform and cooled in a 0° C. ice-bath. HCl gas was then bubbled in the mixture for 30 minutes resulting in a clear solution. The reaction vessel was sealed and stored at 0° C. for 18 hours. The mixture was concentrated in vacuo and dried. The resulting residue was suspended in 1,4-dioxane. Semicarbazide hydrochloride (1.7 eq) was then added, followed by N-methylmorpholine (7.2 eq). The mixture was refluxed for 48 hours. The precipitate was filtered and washed with 1,4-dioxane, water, and ether. The solid was pumped dry to afford the title compound. 1H NMR (DMSO-d6, 300 MHz) δ 11.87 (s, 1H), 11.56 (s, 1H), 8.11(d, J=8.1 Hz, 1H), 7.75 (m, 2H), 7.47 (m, 2H), 7.37 (d, J=11.0 Hz, 1H), 7.29 (d, J=7.9 Hz, 1H), 7.15 (t, J=7.9 Hz, 1H), 7.08 (br m, 1H), 6.96 (d, J=7.3 Hz, 1H), 6.78 (br d, J=9.5 Hz, 1H), 4.28 (m, 1H), 3.73 (t, J=6.2 Hz, 2H), 2.90 (s, 3H), 2.30 (m, 1H), 2.10 (m, 2H), 1.90 (m, 1H); MS ESI (M+H) 522.4.

reactant | 3-[1-(3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-2-oxo-piperidin-3-ylamino]-benzonitrile | FC=1C=C(C=CC1N1C(C(CCC1)NC=1C=C(C#N)C=CC1)=O)C1=C(C=CC=C1)S(=O)(=O)C | C25H22FN3O3S
reactant | 3-cyanoaniline | C(#N)C=1C=C(N)C=CC1 | C7H6N2
reactant | Semicarbazide hydrochloride | 1.7 eq | Cl.NNC(=O)N
reactant | N-methylmorpholine | 7.2 eq | CN1CCOCC1 | C5H11NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
product | 1-(3-Fluoro-2′-methanesulfonyl-biphenyl-4-yl)-3-[3-(5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-phenylamino]-piperidin-2-one | FC=1C=C(C=CC1N1C(C(CCC1)NC1=CC(=CC=C1)C1=NNC(N1)=O)=O)C1=C(C=CC=C1)S(=O)(=O)C | C26H24FN5O4S
